US20010007875A1
33.4 g of 2,4-thiazolidinedione are dissolved in 1700 ml of tetrahydrofuran, under an inert atmosphere, and while the temperature of the reaction medium is maintained at −78° C, 228 ml of butyllithium (2.5 M hexane) are added dropwise. The temperature is allowed to rise to 20° C. and the mixture is stirred for 2 h at this temperature. It is cooled to −78° C. and 31.2 g of 1-(2-bromoethoxy)-4-fluorobenzene in solution in 600 ml of tetrahydrofuran are added dropwise. The temperature is then allowed to rise to room temperature and the mixture is stirred for 20 h at this temperature. The reaction medium is poured over 2300 ml of 2 N hydrochloric acid. The organic phase is decanted and concentrated. The residue is taken up in 800 ml of ethyl acetate and 1000 ml of water. The organic phase is decanted, washed 4 times with water, dried over sodium sulfate and evaporated to give an oil which is purifed on silica, eluting with a dichloromethane/acetone (97/3 by volume) mixture. The product obtained is recrystallized from diisopropyl ether. 8.5 g of 5-[2-(4-fluorophenoxy)ethyl]-2,4-thiazolidinedione are obtained in the form of a white solid whose melting point is 94-96° C.

reactant | 2,4-thiazolidinedione | 33.4 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | butyllithium | 2.5 M, 228 ml | C(CCC)[Li]
reactant | 1-(2-bromoethoxy)-4-fluorobenzene | 31.2 g | BrCCOC1=CC=C(C=C1)F | C8H8BrFO
reactant | hydrochloric acid | 2 N, 2300 ml | Cl | ClH
solvent | tetrahydrofuran | 1700 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
product | 5-[2-(4-fluorophenoxy)ethyl]-2,4-thiazolidinedione | 8.5 g | FC1=CC=C(OCCC2C(NC(S2)=O)=O)C=C1 | C11H10FNO3S
